US07709471B2
4-amino-3-chloro-N-(3-dimethylamino-2,2-dimethyl-propyl)benzamide
3-chloro-N-(3-dimethylamino-2,2-dimethyl-propyl)-4-nitro-benzamide (2.29 g, 7.67 mmol), iron powder (2.45 g, 43.79 mmol) and ammonium chloride (781 mg, 14.60 mmol) were heated in ethanol (50 mL) and water (18 mL) at reflux for one hour. A few drops of acetic acid were added and heating continued for a further hour. The reaction mixture was cooled, filtered and the filtrate concentrated. This residue was partitioned between saturated NaHCO3 (aq.) and DCM. The organic phase was washed with brine, dried with MgSO4 and concentrated. Column chromatography gave the title compound as an orange crystalline solid. (850 mg, 39%)

reactant | 3-chloro-N-(3-dimethylamino-2,2-dimethyl-propyl)-4-nitro-benzamide | 7.67 mmol, 2.29 g | ClC=1C=C(C(=O)NCC(CN(C)C)(C)C)C=CC1[N+](=O)[O-] | C14H20ClN3O3
reactant | ammonium chloride | 14.60 mmol, 781 mg | [Cl-].[NH4+]
reactant | water | 18 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | acetic acid | A few drops | C(C)(=O)O | C2H4O2
catalyst | iron | 43.79 mmol, 2.45 g | [Fe] | Fe
product | 4-amino-3-chloro-N-(3-dimethylamino-2,2-dimethyl-propyl)benzamide | NC1=C(C=C(C(=O)NCC(CN(C)C)(C)C)C=C1)Cl | C14H22ClN3O
